US03947434
D. 9-(p-Anisidino)-2,7-dimethyl-1H-imidazo[4,5-f]quinoline Hydrochloride
A mixture of 18.5 g. (0.08 m.) of 9-chloro-2,7-dimethylimidazo [4,5-f]-quinoline, 9.85 g. (0.08 m.) of p-anisidine and 300 ml. of ethanol was refluxed, with stirring, overnight. The solution was concentrated in vacuo to give 27 g. m.p. 307°-311°C. Recrystallization from 300 ml. of MeOH yielded 13 g. m.p. 317°-318°C.

reactant | 9-chloro-2,7-dimethylimidazo [4,5-f]-quinoline | ClC1=CC(=NC2=CC=C3C(=C12)NC(=N3)C)C | C12H10ClN3
reactant | p-anisidine | COC1=CC=C(C=C1)N | C7H9NO
solvent | ethanol | C(C)O | C2H6O
product | 9-(p-Anisidino)-2,7-dimethyl-1H-imidazo[4,5-f]quinoline Hydrochloride | Cl.COC1=CC=C(C=C1)NC1=CC(=NC2=CC=C3C(=C12)NC(=N3)C)C | InChI=1S/C19H18N4O.ClH/c1-11-10-17(23-13-4-6-14(24-3)7-5-13)18-15(20-11)8-9-16-19(18)22-12(2)21-16;/h4-10H,1-3H3,(H,20,23)(H,21,22);1H
